US07723321B2
STEP 1: N-{4-Bromo-2-nitro-6-[(phenylmethyl)oxy]phenyl}acetamide
To a solution of 4-bromo-2-nitro-6-[(phenylmethyl)oxy]aniline (33.0 g, 102 mmol, WO 2004054984) and acetic anhydride (14.5 mL, 153 mmol) in acetic acid (90 mL) was added concentrated sulfuric acid (2 drops) at 70° C. The mixture was stirred at 70° C. for 20 minutes. After cooling to room temperature, water (800 mL) was added, and the formed precipitate was collected by filtration, and washed with diisopropyl ether to give the title compound as a brown solid (30.9 g, 83%).

reactant | 4-bromo-2-nitro-6-[(phenylmethyl)oxy]aniline | 102 mmol, 33.0 g | BrC1=CC(=C(N)C(=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C13H11BrN2O3
reactant | acetic anhydride | 153 mmol, 14.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 800 mL | O | H2O
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | N-{4-Bromo-2-nitro-6-[(phenylmethyl)oxy]phenyl}acetamide | 30.9 g, 83% | BrC1=CC(=C(C(=C1)OCC1=CC=CC=C1)NC(C)=O)[N+](=O)[O-] | C15H13BrN2O4
